US06346532B1
To a solution of 3.62 g of tert-butyl N-[2-[4-[[2-(2-pyridyl)acetyl]amino]phenoxy]ethyl]carbamate in 30 ml of methanol was added 50 ml of a 4N hydrochloride-ethyl acetate solution. After the reaction solution was stirred at room temperature for eight hours, the solvent was evaporated in vacuo. To the residue were added an aqueous solution of sodium hydrogen carbonate and potassium carbonate to adjust to pH about 12. The resulting aqueous phase was extracted with a mixed solvent of chloroform and tetrahydrofuran. The organic layer was dried over anhydrous magnesium sulfate and concentrated, the resulting residue was dissolved in 40 ml of methanol, and 1.02 g of (R)-styrene oxide was added thereto. After the reaction solution was heated to reflux for 26 hours, the solvent was evaporated in vacuo. The resulting residue was purified by silica gel column chromatography (eluent: chloroform/methanol=30/1→10/1) and dissolved in methanol, 0.59 ml of a 4N hydrogen chloride-ethyl acetate solution was added, and the solvent was evaporated in vacuo. The resulting crude crystals were recrystallized from methanol-ethanol to give 320 mg of (R)-4′-[2-[(2-hydroxy-2-phenylethyl)-amino]ethoxy]-2-(2-pyridyl)acetanilide hydrochloride

reactant | tert-butyl N-[2-[4-[[2-(2-pyridyl)acetyl]amino]phenoxy]ethyl]carbamate | 3.62 g | N1=C(C=CC=C1)CC(=O)NC1=CC=C(OCCNC(OC(C)(C)C)=O)C=C1 | C20H25N3O4
reactant | hydrochloride ethyl acetate | 4N | Cl.C(C)(=O)OCC
solvent | methanol | 30 ml | CO | CH4O
product | (R)-4′-[2-[(2-hydroxy-2-phenylethyl)-amino]ethoxy]-2-(2-pyridyl)acetanilide hydrochloride | 320 mg | Cl.O[C@@H](CNCCOC1=CC=C(NC(CC2=NC=CC=C2)=O)C=C1)C1=CC=CC=C1 | InChI=1S/C23H25N3O3.ClH/c27-22(18-6-2-1-3-7-18)17-24-14-15-29-21-11-9-19(10-12-21)26-23(28)16-20-8-4-5-13-25-20;/h1-13,22,24,27H,14-17H2,(H,26,28);1H/t22-;/m0./s1
